* Schematics Netlist *



R_R2         0 $N_0001  8.2k  
C_C1         $N_0001 vc  1n  
R_RL         0 vam  820k  
R_RE         0 $N_0002  1k  
R_R1         $N_0001 $N_0003  8.2k  
V_Vcc         $N_0003 0 12V
L_LP         $N_0004 $N_0002  470u  
C_C3         $N_0004 va  100n  
C_C         $N_0005 $N_0003  20n  
Q_Q1         $N_0005 $N_0001 $N_0002 Q2N2222
L_L         $N_0005 $N_0003  470u  
C_C2         vam $N_0005  10n  
V_VC         vc 0  
+SIN 0 10v 50k 0 0 0
V_Vm         va 0  
+SIN 0 10v 1k 0 0 0
